US09145356B2
4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoic acid
Water (500.0 mL) and potassium hydroxide were added to a round bottom flask equipped with a stirrer. Methyl 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoate (50.0 g, 0.0856 mol), as prepared in Example 11, was then added via the addition funnel and the reaction was placed in an oil bath and heated to a gentle reflux overnight. The flask was allowed to cool before acidifying with concentrated HCl, down to ph˜1.0. The precipitate was filtered and dried overnight. The solids were analyzed by proton NMR to be 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoic acid.

reactant | potassium hydroxide | [OH-].[K+]
reactant | Methyl 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoate | 0.0856 mol, 50.0 g | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=CC=C(C(=O)OC)C=C1)F | C16H8F16O5
reactant | HCl | Cl | ClH
solvent | Water | 500.0 mL | O | H2O
product | 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoic acid | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=CC=C(C(=O)O)C=C1)F | C15H6F16O5
